US05290939
8.8 g of trimethyl phosphite are added to 20.0 g of 3-bromo-2-hydroxy-5-methoxy-benzyl bromide and, with stirring, the mixture is heated for 3 hours at 140° (complete conversion according to TLC). The resulting oil is filtered with toluene/ethyl acetate (4:1) as eluant over a small amount of silica gel. [(3-Bromo-2-hydroxy-5-methoxy-phenyl)methyl]phosphonic acid dimethyl ester is thus obtained [1H-NMR (360 MHz, CDCl3): 3.20 (d, 2H, CH2P, 2JP-H =21 Hz), 3.70 (s, 3H, OCH3), 3.74 (d, 6H, 2×OCH33JP-H =1 Hz), 6.70 (m, 1H), 7.07 (m, 1H) ppm].

reactant | trimethyl phosphite | 8.8 g | P(OC)(OC)OC | C3H9O3P
reactant | 3-bromo-2-hydroxy-5-methoxy-benzyl bromide | 20.0 g | BrC=1C(=C(CBr)C=C(C1)OC)O | C8H8Br2O2
product | [(3-Bromo-2-hydroxy-5-methoxy-phenyl)methyl]phosphonic acid dimethyl ester | COP(OC)(=O)CC1=C(C(=CC(=C1)OC)Br)O | C10H14BrO5P
